Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Codeine / Gadolinium-Containing Contrast Media / abalone / 
acetaminophen
 
Attending: ___
 
Chief Complaint:
b/l breast cancer now s/p b/l mastectomies, SLNBx and chest wall 
closure 
 
Major Surgical or Invasive Procedure:
s/p b/l mastectomies, SLNBx and chest wall closure 

 
History of Present Illness:
Ms. ___ is a ___ y/o female. Recently, she had a Chest CT on 
___ as part of endometrial CA surveillance that noted a 0.4 
X 0.4 nodule in the right breast
that was increased in size since prior CT. Follow up ultrasound 
was recommended. On ___ patient a bilateral mammogram and 
right breast ultrasound that noted an indeterminate but 
suspicious right breast mass. Ultrasound guided core biopsy of 
both sites was recommended, which revealed invasive carcinoma 
with ductal and lobular features. 
Ms. ___ considered breast ___ recommendations and has 
decided to
pursue Bilateral Total Mastectomies with Bilateral SLNBx's.

 
Past Medical History:
PAST MEDICAL HISTORY:  Significant for childhood asthma,
diabetes, hypertension, hypercholesterolemia, breast cancer,
status post lumpectomy and XRT, no chemo.  She did not receive
chemotherapy secondary to her NASH and also as another medical
problem.

PAST SURGICAL HISTORY:  She had an appendectomy as a child, vein
stripping in ___, bilateral knee replacement in ___, complete
shoulder implant on the right in ___ and a left partial
mastectomy in ___ as above.

OB/GYN HISTORY:  She is a gravida 5, para 5 with 4 SVD (1 twin), 
1 SAB.  Her last menstrual period was at age ___.  She denies any 
history of abnormal Paps.  Her last Pap was approximately ___ 
years ago.
 
Social History:
___
Family History:
FAMILY HISTORY:  She has a maternal aunt with breast cancer,
mother with a possible history of uterine cancer, a brother with
metastatic colon cancer, and a maternal uncle with lung cancer,
otherwise, no other GYN related malignancies.

 
Physical Exam:
Physical Exam:
VS: ___ Temp: 98.4 PO BP: 169/94
HR: 67 RR: 18 O2 sat: 96% O2 delivery: RA FSBG: 126 ote
GEN: NAD, pleasant, conversant 
HEENT: NCAT, EOMI, sclera anicteric
CV: RRR
PULM: no increased work of breathing, comfortable on RA
BREAST: s/p b/l mastectomy, incisions c/d/I JPx2 - ss drainage 
ABD: soft, non-tender, non-distended, no masses or hernia
EXT: Warm, well-perfused, no edema, no tenderness 
NEURO: A&Ox3, no focal neurologic deficits
PSYCH: normal judgment/insight, normal memory, normal 
mood/affect
WOUND: 
DRAINS: 2x SS, JP output 120's bilaterally and more serous

 
Brief Hospital Course:
Ms. ___ presented to ___ on ___ for planned b/l 
mastectomies, SLNBx and chest wall closure. The operation 
proceeded as planned without intraoperative complications. She 
was taken to the PACU for an initial period, then transferred to 
the ward for observation overnight. She was alert and awake 
throughout her post-operative course, with adequate pain 
control, tolerating diet on post-op day 0. She reported moderate 
headache -migrane type, which improved with Ibuprofen. She 
remained stable from a cardiovascular and pulmonary standpoint; 
vital signs were routinely monitored. Early ambulation were 
encouraged throughout hospitalization. All essential home 
medications were restarted post-operatively.

At the time of discharge on POD3, Ms. ___ was doing well, 
afebrile and hemodynamically stable. Drains output remained 
serosanguinous and appropriate in quantity. The patient received 
discharge teaching including drain teaching. The patient knows 
to call our clinic with any additional questions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Colchicine 1.2 mg PO DAILY 
2. MetFORMIN (Glucophage) 500 mg PO DAILY 
3. MetFORMIN XR (Glucophage XR) 750 mg PO DAILY 
4. Metoprolol Succinate XL 50 mg PO DAILY 

 
Discharge Medications:
1.  Cephalexin 500 mg PO/NG Q8H Duration: 3 Weeks 
RX *cephalexin 500 mg 1 capsule(s) by mouth every eight (8) 
hours Disp #*63 Capsule Refills:*0 
2.  Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate  
3.  MetFORMIN XR (Glucophage XR) 750 mg PO QAM 
Do Not Crush  
4.  Colchicine 1.2 mg PO DAILY  
5.  MetFORMIN (Glucophage) 500 mg PO DAILY  
6.  Metoprolol Succinate XL 50 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
b/l breast cancer now s/p b/l mastectomies, SLNBx and chest wall 
closure 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___. You are being discharged to home with visiting 
nurse to help you and educate you regarding your drains. Please 
continue antibiotics Keflex for 3 weeks or until your drains get 
pulled out. You have 2 follow up appointments - at breast care 
center and with plastic surgery. See additional information. I 
was pleasure to take care of you.

 
Followup Instructions:
___